US07772226B2
(d) t-Butyl [1-[7-(2-butynyl)-2-chloro-6-oxo-6,7-dihydro-1H-purin-8-yl]piperidin-3-yl]carbamate
A mixture consisting of 1.79 g of t-butyl [1-[7-(2-butynyl)-2,6-dichloro-7H-purin-8-yl]piperidin-3-yl]carbamate, 1.0 g of sodium acetate and 18 ml of dimethyl sulfoxide was stirred in an oil bath at 120° C. for three hours. The mixture was removed from the oil bath, and 18 ml of water was added to the reaction solution. The mixture was cooled to room temperature. The crystals were collected by filtration, and washed with water and then with t-butyl methyl ether. The crystals were then dried to give 1.59 g of the title compound.

reactant | t-butyl [1-[7-(2-butynyl)-2,6-dichloro-7H-purin-8-yl]piperidin-3-yl]carbamate | 1.79 g | C(C#CC)N1C(=NC2=NC(=NC(=C12)Cl)Cl)N1CC(CCC1)NC(OC(C)(C)C)=O | C19H24Cl2N6O2
reactant | sodium acetate | 1.0 g | C(C)(=O)[O-].[Na+]
solvent | dimethyl sulfoxide | 18 ml | CS(=O)C | C2H6OS
product | t-Butyl [1-[7-(2-butynyl)-2-chloro-6-oxo-6,7-dihydro-1H-purin-8-yl]piperidin-3-yl]carbamate | 1.59 g | C(C#CC)N1C(=NC=2N=C(NC(C12)=O)Cl)N1CC(CCC1)NC(OC(C)(C)C)=O | C19H25ClN6O3
